US07579368B2
c) N-Isopropyl-N-methyl-2-piperazin-1-yl-acetamide
The title compound was prepared from 1-tert-butyloxycarbonyl-piperazine, chloroacetylchloride and N-isopropyl-N-methylamine in an analogous manner as described in example 21.

reactant | 1-tert-butyloxycarbonyl-piperazine | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | chloroacetylchloride | ClCC(=O)Cl | C2H2Cl2O
reactant | N-isopropyl-N-methylamine | C(C)(C)NC | C4H11N
product | N-Isopropyl-N-methyl-2-piperazin-1-yl-acetamide | C(C)(C)N(C(CN1CCNCC1)=O)C | C10H21N3O
